US05290771
bromo-N-methyl-N-(1-methylethyl)-acetamide
To a solution of 10 cm3 of acetyl bromide in 150 cm3 of ether, cooled to -20° C., one adds a solution of 26 cm3 of methylisopropylamine in 100 cm3 of ether. One leaves the mixture to return to 20° C. and agitates it for 30 minutes at 20° C. One dilutes with water, decants, extracts with ether, dries and separates by distillation. One obtains 13 g of expected product. B.p.=72°/72° under 1 mmHg.

reactant | acetyl bromide | 10 cm3 | C(C)(=O)Br | C2H3BrO
reactant | methylisopropylamine | 26 cm3 | CNC(C)C | C4H11N
reactant | water | O | H2O
solvent | ether | 150 cm3 | CCOCC | C4H10O
solvent | ether | 100 cm3 | CCOCC | C4H10O
product | bromo-N-methyl-N-(1-methylethyl)-acetamide | 13 g | BrCC(=O)N(C(C)C)C | C6H12BrNO
